US06099122
2-Ethyl-2-dimethylamino-1-(4-(2-hydroxyethoxy)phenyl)-pentan-1-one.
32.6 g (0.11 mol) of 2-ethyl-2-dimethylamino-1-(4-(2-hydroxyethoxy)phenyl)-pent-4-en-1-one according to Example A2 are dissolved in 220 ml of ethyl acetate, 1.6 g of palladium-on-carbon (5%) are added thereto and the mixture is then hydrogenated at 30° C. under normal pressure. After approximately 3 hours the absorption of hydrogen ceases (2.58 liters, 103% of the theoretical amount). The catalyst is removed by filtration and the solvent is distilled off using a rotary evaporator (RE). The oily residue is purified by flash-chromatography (petroleum ether/ethyl acetate 2:1). 27.4 g (84%) of a slightly yellowish oil remain.

reactant | 2-ethyl-2-dimethylamino-1-(4-(2-hydroxyethoxy)phenyl)-pent-4-en-1-one | 0.11 mol, 32.6 g | C(C)C(C(=O)C1=CC=C(C=C1)OCCO)(CC=C)N(C)C | C17H25NO3
solvent | ethyl acetate | 220 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 1.6 g | [Pd] | Pd
product | 2-Ethyl-2-dimethylamino-1-(4-(2-hydroxyethoxy)phenyl)-pentan-1-one | C(C)C(C(=O)C1=CC=C(C=C1)OCCO)(CCC)N(C)C | C17H27NO3
